US06552013B1
Synthesis of 1,2,3,4-tetrahydro-naphthalene-1,2-dione-2-oxime
To the mixture of t-BuOK (1.2 eq.) in THF at 0° C. was added a solution of isoamylnitrite (1.2 eq.) and α-tetralone (Aldrich) (1.0 eq.) in THF dropwise. The reaction mixture was warmed to RT and stirred at RT for 2 h. The reaction mixture was stripped to dryness, mixed with ice-cooled HCl (1M), extracted with EtOAc, washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified with flash chromatography (silica gel, 2:1 hexane/EtOAc) to give the title compound.

reactant | t-BuOK | 1.2 eq. | CC(C)(C)[O-].[K+]
reactant | isoamylnitrite | 1.2 eq. | C(CC(C)C)ON=O | C5H11NO2
reactant | α-tetralone | 1.0 eq. | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | HCl | 1M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 1,2,3,4-tetrahydro-naphthalene-1,2-dione-2-oxime | C1(C(CCC2=CC=CC=C12)=NO)=O | C10H9NO2
